US04228298
4-Fluoromethyl-4-trimethylsilyloxy-1-octyne
To a solution of 4.38 g. of 4-fluoromethyl-4-hydroxy-1-octyne and 4.8 g. of imidazole in 19 ml. of dimethylformamide, cooled in an ice bath under nitrogen, is added 4.5 ml. of trimethylchlorosilane via a syringe during a few minutes. The mixture is stirred in the ice bath for 30 minutes and then at room temperature under nitrogen overnight. The solution is poured into hexane, washed with saturated aqueous sodium bicarbonate, water, then brine and dried over anhydrous sodium sulfate. The solvents are removed in vacuo giving the product as a colorless liquid.

reactant | 4-fluoromethyl-4-hydroxy-1-octyne | FCC(CC#C)(CCCC)O | C9H15FO
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
solvent | hexane | CCCCCC | C6H14
product | 4-Fluoromethyl-4-trimethylsilyloxy-1-octyne | FCC(CC#C)(CCCC)O[Si](C)(C)C | C12H23FOSi
